data/polar.json
{"reaction_name": "Hypervalent iodine dearomatization", "rsmi": "[O:1]([H:4])[c:10]1[cH:2][cH:8][c:6]([H:5])[cH:9][cH:3]1.[O:7]([H:26])[H:27].[c:12]1([I:11]([O:18][C:19](=[O:20])[CH3:21])[O:22][C:23](=[O:24])[CH3:25])[cH:13][cH:14][cH:15][cH:16][cH:17]1.[c:29]1([I:28]([O:35][C:36](=[O:37])[CH3:38])[O:39][C:40](=[O:41])[CH3:42])[cH:30][cH:31][cH:32][cH:33][cH:34]1>>[O:1]=[C:10]1[CH:2]=[CH:8][C:6](=[O:7])[CH:9]=[CH:3]1.[c:12]1([I:11])[cH:13][cH:14][cH:15][cH:16][cH:17]1.[c:29]1([I:28])[cH:30][cH:31][cH:32][cH:33][cH:34]1.[O:18]([H:4])[C:19](=[O:20])[CH3:21].[O:22]([H:5])[C:23](=[O:24])[CH3:25].[O:35]([H:26])[C:36](=[O:37])[CH3:38].[O:39]([H:27])[C:40](=[O:41])[CH3:42]", "epd": [["Sigma-/Pi+", [1, 4], [1, 10]], ["Pi-/Pi+", [3, 10], [3, 9]], ["Sigma-/Sigma+", [5, 6], [5, 22]], ["Pi-/Sigma+", [6, 9], [6, 7]], ["Sigma-/Pi+", [7, 26], [6, 7]], ["Sigma-/Sigma+", [28, 35], [26, 35]], ["Sigma-/LP+", [11, 22], [11]], ["Sigma-/Sigma+", [11, 18], [4, 18]], ["Sigma-/Sigma+", [7, 27], [27, 39]], ["Sigma-/LP+", [28, 39], [28]]]}
{"reaction_name": "Ammonium enolate formation", "rsmi": "[C:1]([CH3:3])([CH:5]([C:2]([CH3:4])=[O:7])[H:9])=[O:6].[NH3:8]>>[C:1]([CH3:3])([CH-:5][C:2]([CH3:4])=[O:7])=[O:6].[NH3+:8][H:9]", "epd": [["LP-/Sigma+", [8], [8, 9]], ["Sigma-/LP+", [5, 9], [5]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[cH:1]1[cH:11][cH:24][c:20]([N+:16](=[CH2:19])[CH3:34])[cH:25][cH:12]1.[cH:2]1[c:6]([CH3:21])[s:32][c:5]([B-:7]2([c:33]3[cH:22][c:8]([C:3]([F:26])([F:27])[F:28])[cH:13][c:9]([C:4]([F:29])([F:30])[F:31])[cH:23]3)[O:17][CH2:14][CH2:15][O:18]2)[cH:10]1>>[C:3]([c:8]1[cH:13][c:9]([C:4]([F:29])([F:30])[F:31])[cH:23][c:33]([B-:7]2=[O+:17][CH2:14][CH2:15][O:18]2)[cH:22]1)([F:26])([F:27])[F:28].[cH:1]1[cH:11][cH:24][c:20]([N:16]([CH2:19][c:5]2[cH:10][cH:2][c:6]([CH3:21])[s:32]2)[CH3:34])[cH:25][cH:12]1", "epd": [["LP-/Pi+", [17], [7, 17]], ["Sigma-/Sigma+", [5, 7], [5, 19]], ["Pi-/LP+", [19, 16], [16]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[CH2:3]1[CH2:17][CH2:11][NH:22][C:14]2=[N:28][CH2:6][CH2:18][CH2:21][N:20]12.[O:1]=[C:26]1[N:7]([CH3:23])[C:25](=[O:9])[N:8]([CH3:24])[C:27](=[O:2])[C:15]1=[CH:19][c:10]1[cH:29][cH:4][c:16]([O:13][CH3:12])[cH:5][cH:30]1>>[O-:1][c:26]1[n:7]([CH3:23])[c:25](=[O:9])[n:8]([CH3:24])[c:27](=[O:2])[c:15]1[CH:19]([c:10]1[cH:29][cH:4][c:16]([O:13][CH3:12])[cH:5][cH:30]1)[N:28]1[CH2:6][CH2:18][CH2:21][N+:20]2=[C:14]1[NH:22][CH2:11][CH2:17][CH2:3]2", "epd": [["LP-/Pi+", [20], [14, 20]], ["Pi-/Sigma+", [28, 14], [28, 19]], ["Pi-/Pi+", [19, 15], [15, 26]], ["Pi-/LP+", [26, 1], [1]]]}
{"reaction_name": "Blaise reaction", "rsmi": "[CH2-:1][C:2](=[O:3])[O:4][CH2:5][CH3:6].[CH3:7][C:8]#[N:9].[H+:10].[O:11]([H:12])[H:13]>>[CH3:7][C:8](=[O:11])[CH2:1][C:2](=[O:3])[O:4][CH2:5][CH3:6].[N:9]([H:10])([H:12])[H:13]", "epd": [["LP-/Sigma+", [1], [1, 8]], ["Sigma-/Sigma+", [8, 9], [8, 11]], ["Pi-/Pi+", [8, 9], [8, 11]], ["Pi-/Sigma+", [8, 9], [9, 10]], ["Sigma-/Sigma+", [11, 12], [9, 12]], ["Sigma-/Sigma+", [11, 13], [9, 13]]]}
{"reaction_name": "Arylboronate 1,2-addition", "rsmi": "[O:7]=[CH:12][CH3:8].[c:1]1([B:4]([OH:2])[OH:3])[cH:10][cH:5][cH:9][cH:6][cH:11]1>>[c:1]1([CH:12]([O:7][B:4]([OH:2])[OH:3])[CH3:8])[cH:10][cH:5][cH:9][cH:6][cH:11]1", "epd": [["Pi-/Sigma+", [7, 12], [4, 7]], ["Sigma-/Sigma+", [1, 4], [1, 12]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:8]1[cH:2][n:7][c:10]2[c:12]([n+:4]([O-:3])[o:9][n:21]2)[cH:13]1)(=[O:16])[O-:20].[O-:5][c:6]1[cH:18][cH:14][c:17]([CH3:11])[cH:15][cH:19]1>>[N+:1](=[C:8]1[CH:2]=[N:7][c:10]2[c:12]([n+:4]([O-:3])[o:9][n:21]2)[CH:13]1[O:5][c:6]1[cH:18][cH:14][c:17]([CH3:11])[cH:15][cH:19]1)([O-:16])[O-:20]", "epd": [["LP-/Sigma+", [5], [5, 13]], ["Pi-/Pi+", [13, 8], [8, 1]], ["Pi-/LP+", [1, 16], [16]]]}
{"reaction_name": "Dieckmann condensation", "rsmi": "[C:1]([O:6][CH3:11])([CH:9]([CH2:3][CH2:4][CH2:10][C:2]([O:7][CH3:12])=[O:14])[H:15])=[O:13].[O-:5][CH3:8]>>[C:1]([O:6][CH3:11])([CH:9]1[C:2](=[O:14])[CH2:10][CH2:4][CH2:3]1)=[O:13].[O-:7][CH3:12].[O:5]([CH3:8])[H:15]", "epd": [["Sigma-/Sigma+", [9, 15], [2, 9]], ["Pi-/LP+", [2, 14], [14]], ["LP-/Pi+", [14], [2, 14]], ["Sigma-/LP+", [2, 7], [7]], ["LP-/Sigma+", [5], [5, 15]]]}
{"reaction_name": "Michael addition", "rsmi": "[S:3]([c:12]1[cH:23][cH:16][cH:14][cH:19][cH:26]1)([C:22]([S:4]([c:13]1[cH:24][cH:17][cH:15][cH:18][cH:25]1)(=[O:28])=[O:29])=[CH2:8])(=[O:30])=[O:31].[cH:1]1[cH:7][cH:5][c:20]2[c:2]([cH:27]1)[CH:32]([Zn-:11]([Cl:9])[Cl:10])[CH:21]=[CH:6]2>>[Cl:9][Zn:11][Cl:10].[cH:1]1[cH:7][cH:5][c:20]2[c:2]([cH:27]1)[CH:32]([CH2:8][C-:22]([S:3]([c:12]1[cH:23][cH:16][cH:14][cH:19][cH:26]1)(=[O:30])=[O:31])[S:4]([c:13]1[cH:24][cH:17][cH:15][cH:18][cH:25]1)(=[O:28])=[O:29])[CH:21]=[CH:6]2", "epd": [["Sigma-/Sigma+", [32, 11], [32, 8]], ["Pi-/LP+", [8, 22], [22]]]}
